US06384220B2
A solution of triphenylphosphine (133 mg, 0.51 mmol) in methylene chloride (5 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (90 mg, 0.51 mmol). The reaction mixture was stirred at 0° C. for 20 min and then treated with 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid (125 mg, 0.42 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 20 min. The reaction mixture was then treated with 2-aminopyridine (88 mg, 0.93 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/2 hexanes/ethyl acetate) to afford impure 3-cyclopentyl-N-pyridin-2-yl-2-(4-pyridin-3-yl-phenyl)-propionamide as a pink foam. The impure foam was dissolved in methylene chloride (40 mL) and washed with a saturated aqueous sodium bicarbonate solution (1×40 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford pure 3-cyclopentyl-N-pyridin-2-yl-2-(4-pyridin-3-yl-phenyl)-propionamide (75 mg, 48%) as a pink foam: mp 139-140° C.; EI-HRMS m/e calcd for C24H25N3O (M+) 371.1998, found 371.2006.

reactant | triphenylphosphine | 0.51 mmol, 133 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.51 mmol, 90 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid | 0.42 mmol, 125 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C=1C=NC=CC1 | C19H21NO2
reactant | 2-aminopyridine | 0.93 mmol, 88 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-pyridin-2-yl-2-(4-pyridin-3-yl-phenyl)-propionamide | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)C=1C=NC=CC1 | C24H25N3O
